US04493842
To 30 ml of dry tetrahydrofuran was added 1.0 g of carbonyl diimidazole, and 1.3 g of α-benzyl-tert-butylacetic acid was then added at room temperature. Thereafter, the mixture was heated under reflux for 4 hours and concentrated under reduced pressure. The oily product obtained was purified by column chromatography on silica gel to obtain 0.96 g of N-(α-benzyl-tert-butylacetyl)imidazole (compound No. 1). m.p. 90°-91° C.

reactant | carbonyl diimidazole | 1.0 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | α-benzyl-tert-butylacetic acid | 1.3 g | C(C1=CC=CC=C1)C(C(=O)O)C(C)(C)C | C13H18O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-(α-benzyl-tert-butylacetyl)imidazole | 0.96 g | C(C1=CC=CC=C1)C(C(=O)N1C=NC=C1)C(C)(C)C | C16H20N2O
